US05470845
A. (Diethoxyphosphinyl)methanesulfonic acid, 1-methylethyl ester
To a rapidly stirred solution of 8.28 g (60 mmol) of isopropyl methanesulfonate in 150 mL of THF at -73° C. (internal temp.) was added 25 mL (60 mmol) of 2.4M n-butyllithium dropwise over 20 min. The internal temperature was not allowed to rise above -69° C. throughout the course of the addition. After an additional 15 min., 5.17 g (30 mmol) of freshly distilled diethyl chlorophosphate was added at a rate to keep the solution temperature below -69° C. The reaction mixture was stirred for 0.3 h at -73° C. and for 0.5 h at -40° C. when it was quenched with 125 mL of saturated NH4Cl solution. The reaction mass was warmed to room temperature and the THF removed under pressure. The remainder was partitioned between methylene chloride and water (3×75 mL). The extracts were dried (Na2SO4), concentrated, and purified by flash chromatography (350 g silica gel) eluting with 1:1 methylene chloride/ether to provide 5.20 g (67%) of title compound as a colorless oil.

reactant | isopropyl methanesulfonate | 60 mmol, 8.28 g | CS(=O)(=O)OC(C)C | C4H10O3S
reactant | n-butyllithium | 60 mmol, 2.4M, 25 mL | C(CCC)[Li]
reactant | diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (Diethoxyphosphinyl)methanesulfonic acid, 1-methylethyl ester | 5.20 g, 67% | C(C)OP(=O)(OCC)CS(=O)(=O)OC(C)C | C8H19O6PS
